US04288592
Preparation of N-(2-Chloro-3-pyridyl)trifluoromethanesulfonamide
To a suspension of 2-chloro-3-aminopyridine (5.14 g; 0.04 mole) and powdered Type 3A molecular sieves (10 g) in dichloromethane (60 mls) is added, in portions, trifluoromethanesulfonic anhydride (3.4 mls; 0.02 mole) at 0° C. under a nitrogen atmosphere. After the addition is completed, the mixture is stirred at room temperature for 5 hours and then filtered. The filtrate is evaporated, and the residue is treated with water to obtain the crude product (5.0 g; 96% of theoretical). Recrystallization of the crude product from cyclohexane affords the pure compound: m.p. 120°-122° C.

reactant | 2-chloro-3-aminopyridine | 0.04 mole, 5.14 g | ClC1=NC=CC=C1N | C5H5ClN2
reactant | trifluoromethanesulfonic anhydride | 0.02 mole, 3.4 mls | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 60 mls | ClCCl | CH2Cl2
product | N-(2-Chloro-3-pyridyl)trifluoromethanesulfonamide | 5.0 g, 96% | ClC1=NC=CC=C1NS(=O)(=O)C(F)(F)F | C6H4ClF3N2O2S
